US05602277
To a solution of methyl-5-formylsalicylate (Kadaba, J. Pharm. Sci. 1974, 63, 1333-1335) (1.80 g, 0.01 mol) in methanol (20 mi) at 0° C. was added sodium borohydride (0.38 g, 0.01 mol) in 4 portions during 0.5 h. The solution was further stirred at 0° C. for 2 h and then at room temperature for 0.3 h. It was neutralized with hydrochloric acid and concentrated under vacuum. The residue was passed through a column of silica gel using 1:1 ethyl acetate:hexane as the eluent to give 1.0 g (55%) of methyl-2-hydroxy-5-hydroxymethylbenzoate as a pale yellow powder, mp 66°-67° C.

reactant | methyl-5-formylsalicylate | 0.01 mol, 1.80 g | COC(C=1C(O)=CC=C(C1)C=O)=O | C9H8O4
reactant | sodium borohydride | 0.01 mol, 0.38 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | methyl-2-hydroxy-5-hydroxymethylbenzoate | 1.0 g, 55% | COC(C1=C(C=CC(=C1)CO)O)=O | C9H10O4
